US20010009962A1
(4c) 3-Ethyl-4-nitro-1H-pyrazole-5-carboxylic acid
Fuming sulphuric acid (17.8 ml) was added dropwise to stirred, ice-cooled fuming nitric acid (16.0 ml), the resulting solution heated to 50° C., 3-ethyl-1H-pyrazole-5-carboxylic acid added portionwise over 30 minutes whilst maintaining the reaction temperature below 60° C. The resulting solution was heated for 18 hours at 60° C., allowed to cool, then poured onto ice. The title compound was obtained as a brown solid (64%). δ (DMSOd6): 1.18 (3H,t), 2.84 (2H,m), 13.72 (1H,s).

reactant | sulphuric acid | 17.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 16.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-ethyl-1H-pyrazole-5-carboxylic acid | C(C)C1=NNC(=C1)C(=O)O | C6H8N2O2
product | 3-Ethyl-4-nitro-1H-pyrazole-5-carboxylic acid | C(C)C1=NNC(=C1[N+](=O)[O-])C(=O)O | C6H7N3O4
